US05149866
Preparation of 4'-Hydroxyphenylpropionic Acid
To a one gallon autoclave reactor is charged 420 g (2.8 mol) of 4'-hydroxyphenylpropiophenone, 116.5 g (3.6 mol) of sulfur, 84 g (1.4 mol) of acetic acid and 189 g (4.2 mol) of dimethylamine. The procedure described in Example 1 is followed and 4'-hydroxyphenylacetic acid product containing less than 100 ppm of total sulfur is obtained.

reactant | 4'-hydroxyphenylpropiophenone | 2.8 mol, 420 g | OC1=CC=C(C=C1)C(C(C)C1=CC=CC=C1)=O | C15H14O2
reactant | sulfur | 3.6 mol, 116.5 g | [S] | S
reactant | acetic acid | 1.4 mol, 84 g | C(C)(=O)O | C2H4O2
reactant | dimethylamine | 4.2 mol, 189 g | CNC | C2H7N
product | 4'-Hydroxyphenylpropionic Acid | C1=CC(=CC=C1CCC(=O)O)O | C9H10O3
